US04639420
In a flask (50 ml) fitted with a condenser cholesterol 5α,6α-epoxide (100 mg., 0.25 mmol) in 1-propanol (20 ml) solution containing trifluoroacetic acid (1.0 ml) is refluxed for 1 hour. With vacuum evaporation the solvent is removed. The oily residue is dissolved in benzene (10 ml), extracted with 5% aqueous sodium bicarbonate (2 ml×2) and with water, and dried with anhydrous sodium sulfate. After vacuum evaporation the amorphous solid residue is purified by silica gel G-60 column liquid chromatography employing chloroform-methanol gradient elution. Selected fractions provide the product, 6β-n-propoxy-3β,5α-dihydroxycholestane. (45 mg).

reactant | cholesterol 5α,6α-epoxide | 0.25 mmol, 100 mg | C[C@H](CCCC(C)C)[C@H]1CC[C@@H]2[C@@]1(CC[C@H]3[C@H]2C[C@H]4[C@@]5([C@@]3(CC[C@@H](C5)O)C)O4)C | C27H46O2
reactant | trifluoroacetic acid | 1.0 ml | FC(C(=O)O)(F)F | C2HF3O2
reactant | 1-propanol | 20 ml | C(CC)O | C3H8O
product | 6β-n-propoxy-3β,5α-dihydroxycholestane | C(CC)O[C@@H]1C[C@H]2[C@@H]3CC[C@H]([C@@H](CCCC(C)C)C)[C@]3(CC[C@@H]2[C@]2(CC[C@@H](C[C@]12O)O)C)C | C30H54O3
